US07977344B2
8-Bromo-N2-(cyclohexylmethyl)-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-Purine-2,6-diamine
To a solution of N2-(cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine (90 mg) in dry chloroform (1 mL) at room temperature was added NBS (46 mg) in one go. The dark brown reaction was stirred at RT for 1 hour. The reaction was diluted with DCM (15 mL) and washed with water (5 mL). The organics were passed through a hydrophobic frit and concentrated in vacuo.

reactant | N2-(cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine | 90 mg | C1(CCCCC1)CNC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C18H28N6O
reactant | NBS | 46 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 8-Bromo-N2-(cyclohexylmethyl)-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-Purine-2,6-diamine | BrC=1N(C2=NC(=NC(=C2N1)N)NCC1CCCCC1)CC1CCOCC1 | C18H27BrN6O
